US08633211B2
Intermediate U (2,4-Dioxo-1,4-dihydro-2H-pyrido[3,4-d]pyrimidin-3-yl)-acetic acid tert-butyl ester
A 2-5 ml microwave vial is charged with Pd(OAc)2 (2.5 mol %, 6.6 mg, 0.0231 mmol), Xantphos (5 mol %, 27.1 mg, 0.0463 mmol), ureido-acetic acid tert-butyl ester (259 mg, 1.482 mmol), and Cs2CO3 (770.2 mg, 2.315 mmol). 3-Bromo-isonicotinic acid methyl ester (216.3 mg, 0.926 mmol) is added, followed by 1,4-dioxane (4 ml). The vessel is sealed and treated in the microwave at 120° C. for 3×3600 seconds. EtOAc is added to the reaction mixture which is then washed with brine (3×20 ml) and water (2×10 ml). The organic phase is passed through Celite® (filter material), dried (MgSO4), filtered and concentrated. The material is purified via flash column chromatography, eluting with iso-hexane:EtOAc to afford the title compound; [M+H]+ 278.

reactant | Xantphos | 0.0463 mmol, 27.1 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | ureido-acetic acid tert-butyl ester | 1.482 mmol, 259 mg | C(C)(C)(C)OC(CNC(=O)N)=O | C7H14N2O3
reactant | Cs2CO3 | 2.315 mmol, 770.2 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-Bromo-isonicotinic acid methyl ester | 0.926 mmol, 216.3 mg | COC(C1=C(C=NC=C1)Br)=O | C7H6BrNO2
catalyst | Pd(OAc)2 | 0.0231 mmol, 6.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (2,4-Dioxo-1,4-dihydro-2H-pyrido[3,4-d]pyrimidin-3-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(NC2=C(C1=O)C=CN=C2)=O)=O | C13H15N3O4
